US04670448
3-Methylsulphonyl-N-[4-[3-(1-piperidinylmethyl)phenoxy]butyl]-1H-1,2,4-triazole-5-amine
Peracetic acid (1.8 ml) in acetic acid (13 ml) was added at 0° to a solution of 3-methylthio-N-[4-[3-(1-piperidinylmethyl)phenoxy]butyl]-1H-1,2,4-triazole-5-amine (1.6 g) and sodium acetate (0.69 g) in acetic acid (22 ml) and the mixture was stirred at room temperature, for 18 h. Excess peracetic acid was decomposed with sodium sulphite (3.0 g) in water and the resulting suspension evaporated. The residue was neutralised with sodium bicarbonate solution and extracted with chloroform. The extract was evaporated to give an oil which was crystallised from methyl acetate-petroleum ether (5:1) to give the title compound as a beige powder (0.75 g), m.p. 79°-81°.

reactant | Peracetic acid | 1.8 ml | C(C)(=O)OO | C2H4O3
reactant | 3-methylthio-N-[4-[3-(1-piperidinylmethyl)phenoxy]butyl]-1H-1,2,4-triazole-5-amine | 1.6 g | CSC1=NNC(=N1)NCCCCOC1=CC(=CC=C1)CN1CCCCC1 | C19H29N5OS
reactant | sodium acetate | 0.69 g | C(C)(=O)[O-].[Na+]
reactant | sodium sulphite | 3.0 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | acetic acid | 13 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 22 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 3-Methylsulphonyl-N-[4-[3-(1-piperidinylmethyl)phenoxy]butyl]-1H-1,2,4-triazole-5-amine | 0.75 g | CS(=O)(=O)C1=NNC(=N1)NCCCCOC1=CC(=CC=C1)CN1CCCCC1 | C19H29N5O3S
